US06071921
Using an analogous procedure to that described for the starting material in Example 1, 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (376 mg) was reacted with 2-(chloromethyl)pyridine hydrochloride (328 mg) to give 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(2-pyridylmethoxy)quinazoline (170 mg, 40%).

reactant | 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 376 mg | Cl.C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1C
reactant | 2-(chloromethyl)pyridine hydrochloride | 328 mg | Cl.ClCC1=NC=CC=C1
product | 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(2-pyridylmethoxy)quinazoline | 170 mg, 40% | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=NC=CC=C2)C=CC1C | C24H22N4O4
